US06093732
N-[(4-Chlorophenyl)methyl]-4-hydroxy-6-[(phenylmethyl)thio]-7-(trifluoromethyl)-3-quinolinecarboxamide
A mixture of 0.15 g of 4-hydroxy-6-[(phenylmethyl)thio]-7-(trifluoromethyl)-3-quinolinecarboxylic acid and 1.2 mL of dimethylformamide is treated with 0.075 g of carbonyldiimidazole. The mixture is stirred 20 h at 35-40° C. The solution is cooled to 25° C. and it is treated with 0.075 mL of distilled water and then it is stirred for 10 min. The solution is treated with 0.053 mL of 4-chlorobenzylamine and it is stirred for 18 h. The mixture is diluted with 1.0 mL of distilled water and then it is decanted from a dark, oily precipitate. This precipitate is treated with 1 mL of glacial acetic acid and the mixture is shaken for 5 min. The solid which formed is collected by filtration and it is washed with a few mL of 50% aqueous acetic acid. The solid is dried in a stream of air to give 48 mg of the title compound.

reactant | 4-hydroxy-6-[(phenylmethyl)thio]-7-(trifluoromethyl)-3-quinolinecarboxylic acid | 0.15 g | OC1=C(C=NC2=CC(=C(C=C12)SCC1=CC=CC=C1)C(F)(F)F)C(=O)O | C18H12F3NO3S
reactant | dimethylformamide | 1.2 mL | CN(C=O)C | C3H7NO
reactant | carbonyldiimidazole | 0.075 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-chlorobenzylamine | 0.053 mL | ClC1=CC=C(CN)C=C1 | C7H8ClN
solvent | water | 1.0 mL | O | H2O
solvent | water | 0.075 mL | O | H2O
product | N-[(4-Chlorophenyl)methyl]-4-hydroxy-6-[(phenylmethyl)thio]-7-(trifluoromethyl)-3-quinolinecarboxamide | 48 mg | ClC1=CC=C(C=C1)CNC(=O)C=1C=NC2=CC(=C(C=C2C1O)SCC1=CC=CC=C1)C(F)(F)F | C25H18ClF3N2O2S
